US04833134
In 100 ml of water was suspended 10 g of 7-aminocephalosporanic acid (hereinafter abbreviated as "7-ACA"), to which was added gradually, while stirring under ice-cooling, a 2N aqueous solution of sodium hydroxide to keep the pH in a range from 12.5 to 13.4. The mixture was stirred for about 2 hours, which was then subjected to TLC. When disappearance of 7-ACA was confirmed, the pH was adjusted to 3.4 by the addition of 4N HCl. Precipitating crystals were collected by filtration, washed with water and acetone, followed by drying over phosphorus pentachloride under reduced pressure to give 5.4 g of 7β-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid as pale yellow crystals.

reactant | 7-aminocephalosporanic acid | 10 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | 4N | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 7β-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid | 5.4 g | N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C8H10N2O4S
